US05563162
To a solution of 8-methoxy-2-methylquinazoline (1.50 g) in dichloromethane (10 ml) was added 1M solution of boron tribromide in dichloromethane (12.9 ml) at 3°-5° C. After 10 minutes, the reaction mixture was stirred at ambient temperature for 2 days. The mixture was adjusted to pH 7 with saturated sodium hydrogen carbonate, and extracted with dichloromethane twice. The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was crystallized from n-hexane to give 8-hydroxy-2-methylquinazoline (1.22 g) as colorless crystals.

reactant | 8-methoxy-2-methylquinazoline | 1.50 g | COC=1C=CC=C2C=NC(=NC12)C | C10H10N2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12.9 ml | ClCCl | CH2Cl2
product | 8-hydroxy-2-methylquinazoline | 1.22 g | OC=1C=CC=C2C=NC(=NC12)C | C9H8N2O
